US20010027196A1
4-Benzylsulfanyl-5-chloro-6-furan-2-yl-pyrimidin-2-yl-amine
From 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, benzyl mercaptan io and DBU in dioxane. ES-MS m/e (%): 320 (M{37Cl}+H+, 45), 318 (M{35Cl}+H+, 100).

reactant | 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | ClC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8ClN3O2S
reactant | benzyl mercaptan | C(C1=CC=CC=C1)S | C7H8S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-Benzylsulfanyl-5-chloro-6-furan-2-yl-pyrimidin-2-yl-amine | C(C1=CC=CC=C1)SC1=NC(=NC(=C1Cl)C=1OC=CC1)N | C15H12ClN3OS
